US07662771B2
Add sodium hydride (1.50 g, 31 mmol, 60% suspension in mineral oil) to a suspension of 2-(1H-pyrazol-3-yl)phenol (5.0 g, 31 mmol) and 7-bromoheptanoic acid ethyl ester (7.4 g, 31 mmol) in DMF (75 mL) at room temperature under nitrogen and heat the mixture at 75° C. for 16 hours. Remove the solvent under reduced pressure, dilute the residue with ethyl acetate (300 mL), wash with water (100 mL), and dry over sodium sulfate. Remove the solvent under reduced pressure and purify the residue by flash column chromatography on silica gel, eluting with hexanes/ethyl acetate (9:1), to provide 7-[3-(2-hydroxyphenyl)pyrazol-1-yl]heptanoic acid ethyl ester (4.73 g, 48%).

reactant | sodium hydride | 31 mmol, 1.50 g | [H-].[Na+]
reactant | 2-(1H-pyrazol-3-yl)phenol | 31 mmol, 5.0 g | N1N=C(C=C1)C1=C(C=CC=C1)O | C9H8N2O
reactant | 7-bromoheptanoic acid ethyl ester | 31 mmol, 7.4 g | C(C)OC(CCCCCCBr)=O | C9H17BrO2
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | 7-[3-(2-hydroxyphenyl)pyrazol-1-yl]heptanoic acid ethyl ester | 4.73 g, 48% | C(C)OC(CCCCCCN1N=C(C=C1)C1=C(C=CC=C1)O)=O | C18H24N2O3
